US06759554B2
The general procedure under argon was followed using copper(I) iodide (10 mg, 0.05 mmol), K3PO4 (636 mg, 3.00 mmol), benzylamine (131 μL, 1.20 mmol), 2-iodobenzoic acid (248 mg, 1.00 mmol), ethylene glycol (111 μL, 2.00 mmol) and 2-propanol (1.0 mL). After heated for a specified duration, the reaction was allowed to reach room temperature. Water and diluted HCl (10%) was added until ˜pH 3. Diethyl ether (2 mL) was added and the organic layer was analyzed by tlc. The reaction mixture was further extracted by diethyl ether (4×10 mL) and the combined organic phase was washed with brine and dried over Na2SO4. The solvent was rotary evaporated and the yellowish-brown residue was purified by column chromatography using a solvent mixture (diethyl ether/ethyl acetate=1/1, Rƒ=0.3) to afford 2-(N-benzyl)aminobenzoic acid (161 mg, 71% isolated yield) as light yellow solid. For aryl bromide substrate: copper(I) iodide (19 mg, 0.10 mmol), K3PO4 (636 mg, 3.00 mmol), benzylamine (131 μl, 1.20 mmol), 2-bromobenzoic acid (201 mg, 1.00 mmol), ethylene glycol (111 μl, 2.00 mmol) and 1-butanol (1.0 mL) was used and heated to 100° C. The above workup procedures was followed and obtained 2-(N-benzyl)aminobenzoic acid (120 mg, 53% isolated yield) as light yellow solid. For aryl chloride substrate: copper(I) iodide (19 mg, 0.10 mmol), K3PO4 (636 mg, 3.00 mmol), benzylamine (131 μl, 1.20 mmol), 2-chlorobenzoic acid (157 mg, 1.00 mmol), ethylene glycol (111 μl, 2.00 mmol) and 1-butanol (1.0 mL) was used and heated to 100° C. The above workup procedures was followed and obtained 2-(N-benzyl)aminobenzoic acid (109 mg, 48% isolated yield) as light yellow solid. The spectral data (1H NMR) matched with the literature references and indicated >95% purity. See Chang, M. R.; Takeuchi, Y.; Hashigaki, K.; Yamato, M. Heterocycles 1992, 33, 147-152. Moore, J. A.; Sutherland, G. J.; Sowerby, R.; Kelly, E. G.; Palermo, S.; Webster, W. J. Org. Chem. 1969, 34, 887-892.

reactant | K3PO4 | 3.00 mmol, 636 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | benzylamine | 1.20 mmol, 131 μl | C(C1=CC=CC=C1)N | C7H9N
reactant | 2-bromobenzoic acid | 1.00 mmol, 201 mg | BrC1=C(C(=O)O)C=CC=C1 | C7H5BrO2
reactant | ethylene glycol | 2.00 mmol, 111 μl | C(CO)O | C2H6O2
catalyst | copper(I) iodide | 0.10 mmol, 19 mg | [Cu]I
solvent | 1-butanol | 1.0 mL | C(CCC)O | C4H10O
product | 2-(N-benzyl)aminobenzoic acid | 120 mg, 53% | C(C1=CC=CC=C1)NC1=C(C(=O)O)C=CC=C1 | C14H13NO2
